US04412926
Step 1: Preparation of 5-octyl norbornene
1-decene (5984 g) and dicyclopentadiene (770 g, technical grade) were placed in a sealed autoclave and heated to 220° C. for a period of about 3 hours. The reaction mixture was then distilled to give a mixture of exo- and endo-5-octyl-2-norbornene.

reactant | 1-decene | 5984 g | C=CCCCCCCCC | C10H20
reactant | dicyclopentadiene | 770 g | C1C=CC2C1C3CC2C=C3 | C10H12
product | 5-octyl norbornene | C(CCCCCCC)C1C2C=CC(C1)C2 | C15H26
